US05382592
5-Bromo-3-(3-hydroxypropyl)-1H-indole (11)
A modification of a procedure reported by Grandberg (Chem. Abstr. 1973, 79,918895) was used. Thus, to a suspension of 4-bromophenylhydrazine hydrochloride (56.0 g, 0.25 mol) in 200 mL of 2-methoxyethanol was added 3,4-dihydro-2H-pyran (25.5 mL, 0.28 mol) over ca. 5 min and the resulting mixture was heated to reflux under Ar for 3.5 h. The cooled reaction mixture was evaporated and the residual oil was poured into 500 mL of cold water. The aqueous mixture was extracted with ether (2×250 mL) and the ethereal extract was washed with H2O (250 mL), 1N HCl (2×250 mL) and brine (250 mL). The organic phase was then dried (Na2SO4) and evaporated to give a dark orange-brown oil. This oil was purified on a 10×15 cm SiO2 pad (elution with CH2Cl2 then CH2Cl2 -ethyl acetate, 1:1) to give the title compound (43.7 g, 69%) as a viscous orange-brown oil: IR (neat) 3570, 3430, 3300 (br), 1460 cm-1 ; 1H NMR (CDCl3, 200 MHz) δ0.11 (br s, 1H), 7.73 (d, J=1.8 Hz, 1H), 7.30-7.18 (m, 2H), 6.97 (s, 1H), 3.72 (t, J=6.4 Hz, 2H), 2.80 (t, J=7.5 Hz, 2H), 2.03-1.89 (m, 2H), 1.68 (br s, 1H).

reactant | 4-bromophenylhydrazine hydrochloride | 0.25 mol, 56.0 g | Cl.BrC1=CC=C(C=C1)NN
reactant | 3,4-dihydro-2H-pyran | 0.28 mol, 25.5 mL | O1CCCC=C1 | C5H8O
solvent | 2-methoxyethanol | 200 mL | COCCO | C3H8O2
product | 5-Bromo-3-(3-hydroxypropyl)-1H-indole | 43.7 g, 69% | BrC=1C=C2C(=CNC2=CC1)CCCO | C11H12BrNO
